US05302589
A solution of 17β-N-t-butylcarbamoyl-6-azaandrost-4-en-3-one (373 mg. 1.00 mmol), in dimethylformamide is treated with sodium hydride (50 mg, 60%, 1.25 mmol) at 0° C. for 30 minutes before the addition of 1,4-dibromobutane (0.179 mL, 1.5 mmol). After 30 minutes further the reaction is poured into ice water and extracted with methylene chloride (3×10 mL), dried over Na2SO4, concentrated and filtered through a plug of silica with 1:1 methylene chloride/acetonitrile followed by 10% methanol/methylene chloride. The methanolic fractions are concentrated to give crude 17β-N-t-butylcarbamoyl-6-(4-bromobutyl)-6-azaandrost-4-en-3-one. This material is dissolved in toluene (5 mL) and dimethylformamide (1.5 mL), sodium iodide added and the mixture heated at reflux for 7 hrs. The reaction is cooled, water added, extracted with methylene chloride (3×20 mL), dried over Na2SO4, concentrated and chromatographed (50% ethyl acetate/hexane) to give 17β-N-t-butylcarbamoyl-6-azaandrost-4,6-butano-4-en-3-one as a white solid; yield: 150 mg (35%). Recrystallization from ethyl acetate/hexanes gives an analytical sample as white crystals; m.p. 173°-174° C. Anal. Calcd. for C27H42N2O2.1/4H2O; C, 75.29; H, 9.94; N, 6.50. Found: C, 75.21; H, 10.04; N, 6.20.

reactant | 17β-N-t-butylcarbamoyl-6-azaandrost-4-en-3-one | 1.00 mmol, 373 mg | C(C)(C)(C)NC(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CNC3=CC(CC[C@]3(C)[C@H]1CC2)=O | C23H36N2O2
reactant | sodium hydride | 1.25 mmol, 50 mg | [H-].[Na+]
reactant | 1,4-dibromobutane | 1.5 mmol, 0.179 mL | BrCCCCBr | C4H8Br2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 17β-N-t-butylcarbamoyl-6-(4-bromobutyl)-6-azaandrost-4-en-3-one | C(C)(C)(C)NC(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CN(C3=CC(CC[C@]3(C)[C@H]1CC2)=O)CCCCBr | C27H43BrN2O2
